US09023846B2
To a mixture of [2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-6-(2-trifluoromethyl-phenyl)-3H-imidazo[4,5-c]pyridin-4-yloxy]-acetaldehyde (30.0 mg, 0.0610 mmol, prepared as described in the previous step) in 5:5:2 tart-BuOH/2-methyl-2-butene/H2O (1.2 mL) was added sodium chlorite (11.6 mg, 0.128 mmol) followed by sodium dihydrogen phosphate (17.8 mg, 0.183 mmol). After stirring at room temperature for 16 h, the resulting mixture was treated with 1N NaOH (2 mL) and concentrated in vacuo. The resulting residue was treated with H2O (20 mL) and washed with EtOAc (2×10 mL). The aqueous phase was acidified to pH 5 by adding HOAc and then extracted with EtOAc (3×15 mL). The combined organic layers were washed with H2O (15 mL), brine (15 mL) and then dried with Na2SO4. Removal of the solvent in vacuo yielded [2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-6-(2-trifluoromethyl-phenyl)-3H-imidazo[4,5-c]pyridin-4-yloxy]-acetic acid as a light yellow solid. 1H-NMR (400 MHz, CD3OD) δ: 7.13-8.04 (m, 5H), 5.10 (s, 2H), 4.06 (s, 3H), 1.43 (s, 9H). Mass Spectrum (LCMS, ESI pos.) Calculated For C23H21ClF3N5O3: 508.1 (M+H), Measured: 508.1.

reactant | [2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-6-(2-trifluoromethyl-phenyl)-3H-imidazo[4,5-c]pyridin-4-yloxy]-acetaldehyde | C(C)(C)(C)C=1C(=C(N(N1)C)C1=NC2=C(C(=NC(=C2)C2=C(C=CC=C2)C(F)(F)F)OCC=O)N1)Cl | C23H21ClF3N5O2
reactant | BuOH 2-methyl-2-butene H2O | 1.2 mL | C(CCC)O.CC(C)=CC.O
reactant | sodium chlorite | 0.128 mmol, 11.6 mg | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate | 0.183 mmol, 17.8 mg | P(=O)(O)(O)[O-].[Na+]
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
product | [2-(5-tert-butyl-4-chloro-2-methyl-2H-pyrazol-3-yl)-6-(2-trifluoromethyl-phenyl)-3H-imidazo[4,5-c]pyridin-4-yloxy]-acetic acid | C(C)(C)(C)C=1C(=C(N(N1)C)C1=NC2=C(C(=NC(=C2)C2=C(C=CC=C2)C(F)(F)F)OCC(=O)O)N1)Cl | C23H21ClF3N5O3
